2116-04-09 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    - HCT 20.9 ----> 22.7 after being transfused two units
   - transfusing 2 more units over 4 hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2116-4-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**18**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 60 (60 - 68) bpm
   BP: 107/48(61) {106/48(61) - 127/89(96)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    810 mL
                                                                    765 mL
   PO:
           TF:
   IVF:
                                                                     60 mL
                                                                     74 mL
   Blood products:
                                                                    750 mL
                                                                    691 mL
   Total out:
                                                                    350 mL
                                                                    750 mL
   Urine:
                                                                    350 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    460 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 97%
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   272 K/uL
   8.1 g/dL
   92 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   27 mg/dL
   108 mEq/L
   140 mEq/L
   25.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2116-4-9**]  12:06 AM
                             [**2116-4-9**]  01:16 AM
                             [**2116-4-9**]  05:18 AM
   WBC
   7.7
   Hct
   23.3
   22.7
   25.2
   Plt
   272
   Cr
   1.1
   Glucose
   92
   Other labs: PT / PTT / INR:34.5/34.9/3.5,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   H. pylori: pending
   CXR: : There is unchanged moderate
   cardiomegaly, with midline intact sternal wires and vascular clips from
   prior
   CABG. A left chest pacing device is in unchanged position. A mechanical
   valve is also apparently unchanged. Lung volumes are low and there is
   mild
   atelectasis at the lung bases, but no focal consolidation. Overall,
   vascular
   congestion appears similar to the prior study.
   Assessment and Plan
   63 y/o M on coumadin for mechanical valve presents with sub-acute
   fatigue and likely melana found to have a hematocrit of 23
   .
   # GI BLEED:   While both upper and lower sources of bleeding should be
   considered, given the history of diverticulosis on most recent
   colonoscopy and negative NGT lavage in ED lower GIB more likely, though
   clinically appears more UGIB.  Description of stool over past several
   weeks most consistent with melena, which is usually from UGIB although
   can be anywhere above right colon.  Patient hemodynamically stable
   without evidence of active GI bleed at this time.
   - monitor on telemetry
   - large bore peripheral IV access x 2
   - active type and screen
   - f/u H.pylori
   - Post transfusion HCT/coags, then serial HCT Q 8hr
   - transfuse for HCT <26 or active bleeding
   - PPI gtt
   - GI recs
   - ? clears today
 d/w GI
   - hold Coumadin and trend INR; will start heparin gtt (no bolus) when
   INR < 2.5
   - hold aspirin for now
   - hold hypertensives in the setting of GI Bleed
   .
   # Mechanical Valve:
   - heparin drip for INR < 2.5
   - hold coumadin for now
   - trend INR
   - antibiotics for EGD not recommended by most recent AHA guidelines
   even for high risk patients with prosthetic valve.
   .
   # HTN: Hold home anti-hypertensives in setting of acute bleed.
   - hold amlodipine
   - hold terazosin
   - dose lisinopril in AM with BP parameters
   - dose carvedilol with parameters
   .
   # OSA
   - uses BiPap at home (home settings)
   .
   # Gout: No evidence of flare
   - monitor clinically and colchicine PRN
   .
   # FEN: No IVF, replete electrolytes, NPO for now, d/w GI
   # Prophylaxis: coumadin therapeutic
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2116-4-8**] 08:00 PM
   18 Gauge - [**2116-4-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2116-04-10 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Dr. [**Last Name (STitle) **] (PCP) returned call; he is aware of patient's admission,
   nothing new to add
   - called out to floor, but patient became extraordinarily anxious about
   leaving ICU.
   - AM hematocrit 23.2 from 25.2, will transfuse 1 unit pRBCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2116-4-10**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**18**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 62 (60 - 71) bpm
   BP: 110/56(69) {98/45(60) - 134/75(86)} mmHg
   RR: 17 (14 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,541 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                    241 mL
                                                                     72 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,510 mL
                                                                    800 mL
   Urine:
                                                                  1,510 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     31 mL
                                                                   -728 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   244 K/uL
   7.6 g/dL
   102 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   106 mEq/L
   139 mEq/L
   23.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2116-4-9**]  12:06 AM
                             [**2116-4-9**]  01:16 AM
                             [**2116-4-9**]  05:18 AM
                             [**2116-4-9**]  12:54 PM
                             [**2116-4-9**]  06:19 PM
                             [**2116-4-10**]  04:23 AM
   WBC
   7.7
   7.9
   Hct
   23.3
   22.7
   25.2
   26.5
   25.2
   23.2
   Plt
   272
   244
   Cr
   1.1
   1.1
   Glucose
   92
   102
   Other labs: PT / PTT / INR:28.3/33.5/2.8, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   63 y/o M on coumadin for mechanical valve presents with sub-acute
   fatigue and likely melena found to have a hematocrit of 23
   .
   # GI BLEED:   While both upper and lower sources of bleeding should be
   considered, given the history of diverticulosis on most recent
   colonoscopy and negative NGT lavage in ED, lower GIB more likely,
   though clinically appears more UGIB.  Description of stool over past
   several weeks most consistent with melena, which is usually from UGIB
   although can be anywhere above right colon.  Patient hemodynamically
   stable without evidence of active GI bleed at this time.
   - monitor on telemetry
   - large bore peripheral IV access x 2
   - active type and screen
   - f/u H.pylori
   - Post transfusion HCT/coags, then serial HCT [**Hospital1 **]
   - transfuse for HCT <26 or active bleeding
   - PPI gtt
   - GI recs
   - ? clears today
 d/w GI
   - hold Coumadin and trend INR; will start heparin gtt (no bolus) when
   INR < 2.5
   - hold aspirin for now
   - hold hypertensives in the setting of GI Bleed
   .
   # Mechanical Valve:
   - heparin drip for INR < 2.5
   - hold coumadin for now
   - trend INR
   - antibiotics for EGD not recommended by most recent AHA guidelines
   even for high risk patients with prosthetic valve.
   .
   # HTN: Hold home anti-hypertensives in setting of acute bleed.
   - hold amlodipine
   - hold terazosin
   - dose lisinopril in AM with BP parameters
   - dose carvedilol with parameters
   .
   # OSA
   - uses BiPap at home (home settings)
   .
   # Gout: No evidence of flare
   - monitor clinically and colchicine PRN
   .
   # FEN: No IVF, replete electrolytes, NPO for now, d/w GI
   # Prophylaxis: coumadin therapeutic
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Call out to floor
 will stay here until after scope by
   GI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2116-4-8**] 08:00 PM
   18 Gauge - [**2116-4-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: